US05616799
Preparation of 4-fluoro-N-isopropylaniline
520 parts of toluene, 423 parts (3 mol) of 4-fluoronitrobenzene, 192 parts (3.3 mol) of acetone and 8 parts of catalyst (5% Pt on charcoal, water-moist, water content 50%) are placed in a hydrogenation autoclave. After the gas space has been flushed three times with each of nitrogen and hydrogen, the mixture is heated to from 80°=0 to 85° C. with stirring and reduced at a hydrogen pressure of from 0.2 to 1.0 MPa. When after about 2 hours the uptake of hydrogen falls sharply, the pressure is raised to 2.0 MPa and stirring is continued at 85° C for 30 minutes until there is no longer any drop in pressure. The batch is cooled to 60° C., the autoclave is let down and flushed with nitrogen, and the catalyst is filtered off on a pressure filter at from 50° to 60° C. The aqueous phase is separated off from the filtrate and toluene is distilled off until the water content of the solution is <0.02%. The solution is processed further in accordance with Example 2.

reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | 4-fluoronitrobenzene | 3 mol | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | acetone | 3.3 mol | CC(=O)C | C3H6O
catalyst | Pt on charcoal | [Pt] | Pt
solvent | water | O | H2O
product | 4-fluoro-N-isopropylaniline | FC1=CC=C(NC(C)C)C=C1 | C9H12FN
